US08071595B2
To a 0° C. stirred solution of crude 2,2-dimethyl-5-(4-nitrophenyl)furan-3(2H)-one (170 mg, 0.73 mmol, 1 eq) in CHCl3 (10 mL) was added NBS (259 mg, 1.45 mmol, 2 eq), and the reaction mixture was then stirred at RT for 2 h. The chloroform was removed and the crude material was then purified via silica gel column chromatography eluting with 10% EtOAc in hexanes to afford 4-bromo-2,2-dimethyl-5-(4-nitrophenyl)furan-3(2H)-one (100 mg, 44%) as a yellow solid.

reactant | 2,2-dimethyl-5-(4-nitrophenyl)furan-3(2H)-one | 0.73 mmol, 170 mg, 1 eq | CC1(OC(=CC1=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C12H11NO4
reactant | NBS | 1.45 mmol, 259 mg, 2 eq | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-2,2-dimethyl-5-(4-nitrophenyl)furan-3(2H)-one | 100 mg, 44% | BrC=1C(C(OC1C1=CC=C(C=C1)[N+](=O)[O-])(C)C)=O | C12H10BrNO4
